US04260612
148.7 g. (0.50 mole) of 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are dissolved in 250 ml. of acetonitrile and 100 ml. of aniline are further added. The solution is stirred for 2 days in a nitrogen gas atmosphere at room temperature. 1000 ml. of water is added and the mixture is stirred for a further half an hour. The crystals are filtered and washed with water and finally reboiled in 1400 ml. of methanol. 128.8 g. (86.11%) of 9-anilino-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid are obtained. Melting point: 198°-199° C.

reactant | 9-bromo-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 0.50 mole | BrC1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C10H11BrN2O3
reactant | acetonitrile | C(C)#N | C2H3N
reactant | aniline | NC1=CC=CC=C1 | C6H7N
solvent | water | O | H2O
product | 9-anilino-6-methyl-4-oxo-6,7,8,9-tetrahydro-4H-pyrido[1,2-a]pyrimidine-3-carboxylic acid | 86.11% | N(C1=CC=CC=C1)C1CCC(N2C1=NC=C(C2=O)C(=O)O)C | C16H17N3O3
